US06936608B2
c) 2-Fluoro-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenol
To a stirred solution of 7-(4-fluoro-3-methoxyphenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.123 g, 0.397 mmol) in chloroform (5 ml) was added boron tribromide (1.19 ml, 1.91 mmol) and the mixture was stirred under nitrogen at room temperature for 21 h. 2 M NaOH (5 ml) was added and the mixture was stirred for 5 min producing a solid which was filtered and washed with water. The filtrate was washed with dichloromethane, and the aqueous layer was neutralised with concentrated hydrochloric acid causing a solid to precipitate. The solid was filtered, washed with water and dried under a vacuum to leave 109 mg (93%) of the title compound: 1H NMR (360 MHz, DMSO-d6) δ 7.38 (1H, dd, J 8.8, 11.2 Hz), 7.60-7.64 (1H, m), 7.88 (1H, dd, J 1.9, 8.6 Hz), 9.32 (1H, s), 10.26 (1H, s); MS (ES+) m/z 299 [M+H]+.

reactant | 7-(4-fluoro-3-methoxyphenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.397 mmol, 0.123 g | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)OC | C13H8F4N4O
reactant | boron tribromide | 1.91 mmol, 1.19 ml | B(Br)(Br)Br | BBr3
reactant | NaOH | 2 M, 5 ml | [OH-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Fluoro-5-(3-trifluoromethylimidazo[1,2-b][1,2,4]triazin-7-yl)phenol | 109 mg, 93% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)O | C12H6F4N4O
